US06326369B1
5,6,7-Trimethoxy-2-[6-(5,6,7-trimethoxy-1-oxo-2,3-dihydro-1H-2-indenyl)hexyl]-1-indanone
To a solution of 3-(3,4,5-trimethoxyphenyl)propionic acid (12 g) in THF (200 ml) was dropwise added LDA (1.9 M/THF solution; 60 ml) while temperature of the reaction mixture was kept under −10° C. After being stirred at 0° C. for 3 hr, the reaction mixture was acidified to pH3 with 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried and concentrated in vacuo. Polyphosphoric acid (100 ml) was added to the residue and the reaction mixture was stirred at 60° C. for 4 hr. After being cooled, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate and then water, dried and concentrated in vacuo. The residue was purified by alumina column chromatography (ethyl acetate) and then with crystallization from ethyl acetate-hexane to yield the entitled compound (4.5 g). The compound recrystallized from ethanol gave following melting point.

reactant | 3-(3,4,5-trimethoxyphenyl)propionic acid | 12 g | COC=1C=C(C=C(C1OC)OC)CCC(=O)O | C12H16O5
reactant | LDA | 1.9 M, 60 ml | [Li+].CC(C)[N-]C(C)C
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 5,6,7-Trimethoxy-2-[6-(5,6,7-trimethoxy-1-oxo-2,3-dihydro-1H-2-indenyl)hexyl]-1-indanone | 4.5 g | COC=1C=C2CC(C(C2=C(C1OC)OC)=O)CCCCCCC1C(C2=C(C(=C(C=C2C1)OC)OC)OC)=O | C30H38O8
